US05723499
(a) Preparation of 7-(1-adamantyl)-6-benzyloxy-2-bromonaphthalene
Following the basic procedure of Example 11, by reacting 12.5 g (35 mmol) of 7-(1-adamantyl)-6-hydroxy-2-bromonaphthalene with 5 ml (42 mmol) of benzyl bromide, 12.5 g (80%) of the expected compound of melting point 150°-151° C. were obtained.

reactant | 7-(1-adamantyl)-6-hydroxy-2-bromonaphthalene | 35 mmol, 12.5 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)Br)O | C20H21BrO
reactant | benzyl bromide | 42 mmol, 5 ml | C(C1=CC=CC=C1)Br | C7H7Br
product | 7-(1-adamantyl)-6-benzyloxy-2-bromonaphthalene | 12.5 g, 80% | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)Br)OCC2=CC=CC=C2 | C27H27BrO
